US09402841B2
Step D: (S)-3-(8-(pyrrolidin-3-ylamino)-1,7-naphthyridin-6-yl)-1H-1,2,4-triazol-5(4H)-one
A mixture of (S)-tert-butyl 3-((6-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)-1,7-naphthyridin-8-yl)amino)pyrrolidine-1-carboxylate (80 mg, 0.201 mmol) in DCM (3 mL) was treated with TFA (1.5 mL) for 2 hours. The solvent was removed in vacuo to give the title compound, which was used in the next step without further purification.

reactant | (S)-tert-butyl 3-((6-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)-1,7-naphthyridin-8-yl)amino)pyrrolidine-1-carboxylate | 0.201 mmol, 80 mg | O=C1NC(=NN1)C=1C=C2C=CC=NC2=C(N1)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C19H23N7O3
reactant | TFA | 1.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-(8-(pyrrolidin-3-ylamino)-1,7-naphthyridin-6-yl)-1H-1,2,4-triazol-5(4H)-one | N1C[C@H](CC1)NC=1N=C(C=C2C=CC=NC12)C1=NNC(N1)=O | C14H15N7O
